US04776876
6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid methyl ester
1.0 g (0.005 mol) dicyclohexylcarbodiimide and 2.0 g (0.005 mol) 6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid are dissolved in 30 ml methylene chloride, then stirred for 4 hours at room temperature and allowed to stand overnight. The reaction mixture is filtered and the filtrate is then compressed. The oily residue crystallizes after a while.

reactant | dicyclohexylcarbodiimide | 0.005 mol, 1.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid | 0.005 mol, 2.0 g | C(C1=CC=CC=C1)SC1=NC(=C(C(=O)O)C=C1)C=1NC(C(N1)(C)C(C)C)=O | C20H21N3O3S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-benzylthio-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)SCC1=CC=CC=C1)C=1NC(C(N1)(C)C(C)C)=O)=O | C21H23N3O3S
